US03984552
Step A: 2',3' -Dichloro-4'-methoxy-2-phenylacetophenone
Aluminum chloride (395 g.) is added portionwise to a stirred solution of 2,3-dichloroanisole (500 g.) and phenylacetyl chloride (392 ml.) in carbon disulfide (1200 ml.) with cooling to 5°C. in an ice-water bath. After the addition, the reaction mixture is allowed to warm to room temperature, whereupon it forms a solid mass. After standing at 20°-25°C. overnight, the reaction vessel is flushed with nitrogen for 15 minutes, and crushed ice (about 2 kg.) and 12N HCl (400 ml.) are slowly added alternately with cooling in an ice bath. The pale yellow gummy solid that precipitates is collected by suction filtration on a sintered glass funnel to remove water as well as carbon disulfide. The solid product is washed well with water and sucked dry. To remove any persistent carbon disulfide, the product is triturated with hexane and again collected by filtration. Yield after drying in a steam oven at 70°C. for 18 hours is 803.5 g. (98%), mp 125°-127°C. A sample recrystallized from benzene-cyclohexane (2:1) melts at 128°-129°C.

reactant | Aluminum chloride | 395 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,3-dichloroanisole | 500 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | phenylacetyl chloride | 392 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | carbon disulfide | 1200 ml | C(=S)=S | CS2
product | 2',3' -Dichloro-4'-methoxy-2-phenylacetophenone | ClC1=C(C=CC(=C1Cl)OC)C(CC1=CC=CC=C1)=O | C15H12Cl2O2
